US07872014B2
A solution of 4-(2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine (70 mg, 0.22 mmol), and 4-hydroxybenzaldehyde (40 mg, 0.33 mmol) in TFA (2 mL) was stirred in a sealed pressure vessel at 90° C. for 14 h. The reaction mixture was concentrated and purified by HPLC to give 4-(1-methyl-8,9-bis{[2-(methyloxy)ethyl]-oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol (35 mg, 38% yield) as a yellow solid. 1H NMR (400 MHz, d6-DMSO) δ9.90 (br. s, 1H), 7.79 (d, 1H), 7.46 (m, 2H), 7.38 (d, 1H), 6.93 (m, 2H), 4.32 (m, 2H), 4.27 (m, 2H), 3.76 (m, 2H), 3.69 (m, 2H), 3.34 (s, 3H), 3.23 (s, 3H), 2.82 (s, 3H); MS (EI) for C23H25N3O5: 424 (MH+).

reactant | 4-(2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine | 0.22 mmol, 70 mg | COCCOC1=C(C=CC=C1OCCOC)C=1C(=NNC1N)C | C16H23N3O4
reactant | 4-hydroxybenzaldehyde | 0.33 mmol, 40 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(1-methyl-8,9-bis{[2-(methyloxy)ethyl]-oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol | 35 mg, 38% yield | CC1=NNC=2N=C(C=3C=CC(=C(C3C21)OCCOC)OCCOC)C2=CC=C(C=C2)O | C23H25N3O5
